US05571821
B. 4-Ethylphenylboronic acid
A solution of 1-bromo-4-ethyl benzene (2.0 g, 11 mmol) in dry ether (5 ml) was added to magnesium turnings (311 mg, 13 mmol), which had been suspended in dry ether, by a dropwise addition. After addition was complete, the suspension was refluxed for a period of 15 min after which nearly all of the magnesium had reacted. This solution was then added to trimethy borate (1.12 g, 11 mmol) previously dissolved in ether (5 ml) at -78° C., the solution was warmed to room temperature and stirred for 90 min. The reaction was quenched by the addition of 10% aqueous HCl (2 ml) and the solution was extracted with ether. The combined ether extracts was extracted with 1M NaOH (2×20 ml), the aqueous extracts were acidified with dilute HCl to pH 2 and extracted with ether (2×25 ml). The combined ether extracts was washed once with water (10 ml), dried and evaporated to produce a white solid (676 mg, 38% yield), m.p. 138°-140° C.

reactant | 1-bromo-4-ethyl benzene | 11 mmol, 2.0 g | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | magnesium | 13 mmol, 311 mg | [Mg] | Mg
reactant | trimethy borate | 11 mmol, 1.12 g | B(OC)(OC)OC | C3H9BO3
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-Ethylphenylboronic acid | 676 mg, 38% yield | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
